US07211572B2
To a solution of the above-mentioned crude 9-benzyloxy-2-(3,4-dichlorobenzyl)-6-(1-hydroxy-2,2-dimethylpropyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione (132 mg) in chloroform (4 ml) was added Dess-Martin reagent (65 mg) and the mixture was stirred at room temperature for 20 min. Saturated aqueous sodium hydrogen carbonate solution and sodium sulfite were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over sodium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography (ethyl acetate:chloroform=4:1) to give 9-benzyloxy-2-(3,4-dichlorobenzyl)-6-(2,2-dimethylpropionyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione (38 mg).

reactant | 9-benzyloxy-2-(3,4-dichlorobenzyl)-6-(1-hydroxy-2,2-dimethylpropyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione | 132 mg | C(C1=CC=CC=C1)OC=1C(C=C(N2C1C(N(CC2)CC2=CC(=C(C=C2)Cl)Cl)=O)C(C(C)(C)C)O)=O | C27H28Cl2N2O4
reactant | Dess-Martin reagent | 65 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | 9-benzyloxy-2-(3,4-dichlorobenzyl)-6-(2,2-dimethylpropionyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,8-dione | 38 mg | C(C1=CC=CC=C1)OC=1C(C=C(N2C1C(N(CC2)CC2=CC(=C(C=C2)Cl)Cl)=O)C(C(C)(C)C)=O)=O | C27H26Cl2N2O4
